US06821967B2
a. 2-[(S)-3-methyl-piperazin-1-yl]-quinoline
A solution of 1.554 g (9.5 mmol) of 2-chloroquinoline and 1 g (9.984 mmol) of (S)-2-methylpiperazine in 10 ml of n-butanol is stirred for three hours at 130° C. Then the solvent is distilled off. The residue is purified by column chromatography on silica gel (eluant: dichloromethane/ethanol/ammonia=20:1:0.1).

reactant | 2-chloroquinoline | 9.5 mmol, 1.554 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | (S)-2-methylpiperazine | 9.984 mmol, 1 g | C[C@@H]1NCCNC1 | C5H12N2
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | 2-[(S)-3-methyl-piperazin-1-yl]-quinoline | C[C@H]1CN(CCN1)C1=NC2=CC=CC=C2C=C1 | C14H17N3
